US04725597
A mixture of 6.3 g of 1-(3-chlorobenzyl)piperazine, 2.4 g of 1-bromo-3-chloropropane, 50 ml of reagent ethanol and 3.0 g of triethylamine was refluxed for 4 hours. Water (70 ml) was added, and the mixture was concentrated under vacuum to about 70 ml. The resulting aqueous mixture was extracted with ether (3×150 ml), and the extract was concentrated under vacuum to give a reddish-yellow oil. Chromatography of this oil on a silica column, the eluant being CH2Cl2 /CH3OH/ammonium hydroxide (45:5:1), resulted in an oil which was dissolved in 50 ml of ethanol. Hydrogen chloride-saturated ether was added to this solution until the mixture tested acidic to litmus. The resulting precipitate was filtered off, dried and weighed to yield 5.6 g (68% of theory) of 1,3-bis[4-(3-chlorobenzyl)-1-piperazinyl]propane dihydrochloride monohydrate. Recrystallization from water gave a white crystalline solid (m.p. 248°-257° C., with decomp.).

reactant | 1-(3-chlorobenzyl)piperazine | 6.3 g | ClC=1C=C(CN2CCNCC2)C=CC1 | C11H15ClN2
reactant | 1-bromo-3-chloropropane | 2.4 g | BrCCCCl | C3H6BrCl
reactant | CH2Cl2 CH3OH ammonium hydroxide | C(Cl)Cl.CO.[OH-].[NH4+]
reactant | Hydrogen chloride | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | Water | 70 ml | O | H2O
solvent | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
product | 1,3-bis[4-(3-chlorobenzyl)-1-piperazinyl]propane dihydrochloride monohydrate | 5.6 g, 68% | O.Cl.Cl.ClC=1C=C(CN2CCN(CC2)CCCN2CCN(CC2)CC2=CC(=CC=C2)Cl)C=CC1 | InChI=1S/C25H34Cl2N4.2ClH.H2O/c26-24-6-1-4-22(18-24)20-30-14-10-28(11-15-30)8-3-9-29-12-16-31(17-13-29)21-23-5-2-7-25(27)19-23;;;/h1-2,4-7,18-19H,3,8-17,20-21H2;2*1H;1H2
